US04279887
A total of 20 ml of 15 M ammonium hydroxide was reacted with a solution of 5.4 g p-iodobenzoyl chloride in 25 ml of ether. The crude product was recovered as described in Example 3 and recrystallized from ethanol to yield 3.5 g of p-iodobenzamide as white crystals, m.p. 221°-223°, Rf 0.46.

reactant | ammonium hydroxide | 15 M, 20 ml | [OH-].[NH4+]
reactant | p-iodobenzoyl chloride | 5.4 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
solvent | ether | 25 ml | CCOCC | C4H10O
product | p-iodobenzamide | 3.5 g | IC1=CC=C(C(=O)N)C=C1 | C7H6INO
